US06720320B2
methyl 4-hydroxybenzo(b)thiophene-2-carboxylate
4-(Methoxymethyloxy)benzo(b)thiophene-2-carboxylic acid (7 g) was dissolved in methanol (140 ml) and thionyl chloride (2.0 ml) was added under ice-cooling. The mixture was refluxed under heating for 2 hr and the reaction mixture was concentrated under reduced pressure. Water was added and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and after filtration, the solvent was evaporated under reduced pressure to give the title compound (6.0 g).

reactant | 4-(Methoxymethyloxy)benzo(b)thiophene-2-carboxylic acid | 7 g | COCOC1=CC=CC=2SC(=CC21)C(=O)O | C11H10O4S
reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 140 ml | CO | CH4O
product | methyl 4-hydroxybenzo(b)thiophene-2-carboxylate | 6.0 g | OC1=CC=CC=2SC(=CC21)C(=O)OC | C10H8O3S
